US05051422
N-[[4-(2-Methoxyphenyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride
In a manner similar to Example 1, react N-[[4-(2-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride (8.7 g, 16 mmol) with H2 over Pd(OH)2 (0.2 g) catalyst to give the title compound.

reactant | N-[[4-(2-methoxyphenyl)-1-(phenylmethyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | 16 mmol, 8.7 g | Cl.COC1=C(C=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O
catalyst | Pd(OH)2 | 0.2 g | [OH-].[OH-].[Pd+2]
product | N-[[4-(2-Methoxyphenyl)piperazin-2-yl]methyl]-4-[(methylsulfonyl)amino]benzamide hydrochloride | Cl.COC1=C(C=CC=C1)N1CC(NCC1)CNC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | InChI=1S/C20H26N4O4S.ClH/c1-28-19-6-4-3-5-18(19)24-12-11-21-17(14-24)13-22-20(25)15-7-9-16(10-8-15)23-29(2,26)27;/h3-10,17,21,23H,11-14H2,1-2H3,(H,22,25);1H
